US07807671B2
1,2,3-Triazole (5 g), iodobenzene (9.72 ml) and copper iodide (0.68 g) was taken in dry DMF under Nitrogen atmosphere. 1,2-(N,N-dimethyl) cyclohexyl diamine (1.02 g) and potassium phosphate (30.73 g) was added into above mixture. The reaction mixture was reflux at 110° C. for over night. TLC was checked no starting material and the reaction mixture was filtered through celite. The filtrate was diluted with water and product was extracted with dichloromethane. The organic layer was evaporated and the crude product was purified by column chromatography using 60-120 silica gel and pet ether \ ethyl acetate as eluent to give 1-phenyl-1H-1,2,3-triazole as white solid.

reactant | 1,2,3-Triazole | 5 g | N1N=NC=C1 | C2H3N3
reactant | iodobenzene | 9.72 ml | IC1=CC=CC=C1 | C6H5I
reactant | potassium phosphate | 30.73 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | copper iodide | 0.68 g | [Cu](I)I
product | 1-phenyl-1H-1,2,3-triazole | C1(=CC=CC=C1)N1N=NC=C1 | C8H7N3
